US08492568B2
Step 1: 2-(Cyclopentyloxy)-3-methoxybenzaldehyde oxime
To the stirred solution of 2-(cyclopentyloxy)-3-methoxybenzaldehyde (3 g, 13.636 mmol) in ethanol was added hydroxylamine hydrochloride (1.758 g, 27.277 mmol) and aqueous solution of sodium hydroxide (18 ml, 34.091 mmol). The reaction mixture was refluxed for 6 h under nitrogen atmosphere. The solvent was evaporated under reduced pressure and the reaction mixture diluted with water. The product was extracted using chloroform (3×200 ml), combined organic layers washed with water (3×100 ml), brine (50 ml), dried (Na2SO4), filtered and concentrated under vacuum to yield 3.12 g of the product. 1H NMR (300 MHz, CDCl3) δ 1.58-1.64 (m, 4H), 1.66-1.72 (m, 4H), 3.84 (s, 3H), 4.86 (br s, 1H), 6.89 (d, J=8.1 Hz, 1H), 6.99 (t, J=7.8 Hz, 1H), 7.31 (d, J=7.8 Hz, 1H), 8.43 (s, 1H).

reactant | 2-(cyclopentyloxy)-3-methoxybenzaldehyde | 13.636 mmol, 3 g | C1(CCCC1)OC1=C(C=O)C=CC=C1OC | C13H16O3
reactant | hydroxylamine hydrochloride | 27.277 mmol, 1.758 g | Cl.NO
reactant | sodium hydroxide | 34.091 mmol, 18 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(Cyclopentyloxy)-3-methoxybenzaldehyde oxime | 3.12 g | C1(CCCC1)OC1=C(C=NO)C=CC=C1OC | C13H17NO3
